US05436257
13.2 g of diethyl azodicarboxylate were added dropwise to a solution of 20.7 g of triphenylphosphine in 300 ml of benzene, whilst ice-cooling. The mixture was then stirred at room temperature for 30 minutes, after which 35.0 g of 5-(4-hydroxybenzyl)-3-triphenylmethylthiazolidine-2,4-dione [prepared as described in Preparation 11] were added. The mixture was then stirred at room temperature for one hour, after which 13.2 g of (R)-2-t-butoxycarbonylamino-1-propanol were added to the mixture and the mixture was allowed to stand overnight at the same temperature. 40.9 g of triphenylphosphine, 23.68 ml of diethyl azodicarboxylate and 33 g of (R)-2-t-butoxycarbonylamino-1-propanol were then added, in turn and in 3 or 4 portions, to the mixture, and the mixture was stirred for 2 days. At the end of this time, the reaction mixture was freed from benzene by distillation under reduced pressure. The residue was then purified by column chromatography through silica gel, using a 1:3 by volume mixture of ethyl acetate and hexane as the eluent, to give 30.0 g of 5-{4-[2(R)-t-butoxycarbonylamino-1-propoxy]benzyl}-3-triphenylmethylthiazolidine-2,4-dione, melting at between 153° C. and 157° C.

reactant | diethyl azodicarboxylate | 13.2 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | triphenylphosphine | 20.7 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 5-(4-hydroxybenzyl)-3-triphenylmethylthiazolidine-2,4-dione | 35.0 g | OC1=CC=C(CC2C(N(C(S2)=O)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)C=C1 | C29H23NO3S
reactant | (R)-2-t-butoxycarbonylamino-1-propanol | 13.2 g | C(C)(C)(C)OC(=O)N[C@@H](CO)C | C8H17NO3
reactant | triphenylphosphine | 40.9 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 23.68 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | (R)-2-t-butoxycarbonylamino-1-propanol | 33 g | C(C)(C)(C)OC(=O)N[C@@H](CO)C | C8H17NO3
solvent | benzene | 300 ml | C1=CC=CC=C1 | C6H6
product | 5-{4-[2(R)-t-butoxycarbonylamino-1-propoxy]benzyl}-3-triphenylmethylthiazolidine-2,4-dione | 30.0 g | C(C)(C)(C)OC(=O)N[C@@H](COC1=CC=C(CC2C(N(C(S2)=O)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)C=C1)C | C37H38N2O5S
